US07582643B2
To a vial was added N-azetidin-3-yl-2-(3-fluorophenyl)pyrimidine-5-carboxamide (0.04 g, 0.13 mmol), 2-chloro-4,6-dimethylnicotinonitrile (32.5 mg, 0.19 mmol), and 0.3 mL each of n-butanol, TEA and water. The mixture was heated to 90° C. for 12 hrs and then diluted with ethyl acetate and brine. The layers were separated and the organic layer dried (Na2SO4) and the solvent removed to give a solid, which was purified by chromatography (silica, DCM to 1-5% MeOH/DCM) to give the product, N-[1-(3-cyano-4,6-dimethylpyridin-2-yl)azetidin-3-yl]-2-(3-fluorophenyl)pyrimidine-5-carboxamide (52 mg, 76%). HRMS (M+H)=403.1682 expected, 403.1750 observed.

reactant | N-azetidin-3-yl-2-(3-fluorophenyl)pyrimidine-5-carboxamide | 0.13 mmol, 0.04 g | N1CC(C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C14H13FN4O
reactant | 2-chloro-4,6-dimethylnicotinonitrile | 0.19 mmol, 32.5 mg | ClC1=C(C#N)C(=CC(=N1)C)C | C8H7ClN2
reactant | n-butanol | 0.3 mL | C(CCC)O | C4H10O
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | N-[1-(3-cyano-4,6-dimethylpyridin-2-yl)azetidin-3-yl]-2-(3-fluorophenyl)pyrimidine-5-carboxamide | 52 mg, 76% | C(#N)C=1C(=NC(=CC1C)C)N1CC(C1)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C22H19FN6O
